US06627651B1
To triphenylphosphine (1.18 g, 4.50 mmol), tetrahydropyran-4-ol (0.429 g, 4.50 mmol) and methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (327 mg, 1.50 mmol) dissolved in THF (10 ml) was added at 0° C. a solution of diisopropyl azodicarboxylate (0.886 ml, 4.50 mmol) in THF (2 ml), and the resulting mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure and the residue was subjected to column chromatography (silica gel: 45 g, ethyl acetate/hexane=1/25). The objective fractions were concentrated under reduced pressure to obtain methyl 2-[(tetrahydropyran-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (427 mg, 1.41 mmol, 94%).

reactant | triphenylphosphine | 4.50 mmol, 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydropyran-4-ol | 4.50 mmol, 0.429 g | O1CCC(CC1)O | C5H10O2
reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.50 mmol, 327 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | diisopropyl azodicarboxylate | 4.50 mmol, 0.886 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl 2-[(tetrahydropyran-4-yl)oxy]-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.41 mmol, 427 mg, 94% | O1CCC(CC1)OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C18H22O4
